US06599917B1
c) 2-Amino-4-bromobenzaldehyde
16.1 ml of an aqueous 29% ammonia solution was added to a mixture of 5.0 g of 2-nitro-4-bromobenzaldehyde, 60.4 g of iron (II) sulfate heptahydrate, 200 ml of methanol, 100 ml of water and 335 μl of concentrated hydrochloric acid in an oil bath kept at 90° C., followed by heating under stirring for 10 minutes. After cooling as it was, insoluble matters were filtered through Celite and the filtrate was extracted with ethyl acetate. The organic phase was washed with brine and the solvent was removed, to give 3.9 g of the target compound.

reactant | ammonia | N | H3N
reactant | 2-nitro-4-bromobenzaldehyde | 5.0 g | [N+](=O)([O-])C1=C(C=O)C=CC(=C1)Br | C7H4BrNO3
reactant | methanol | 200 ml | CO | CH4O
reactant | hydrochloric acid | 335 μl | Cl | ClH
catalyst | iron (II) sulfate heptahydrate | 60.4 g | O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Fe+2]
solvent | water | 100 ml | O | H2O
product | 2-Amino-4-bromobenzaldehyde | 3.9 g | NC1=C(C=O)C=CC(=C1)Br | C7H6BrNO
